US07276518B2
DL-α-Methyltryptamine (348 mg, 2 mmol) was dissolved in dry 1,2-dichloroethane (10 ml) under argon. After addition of 4-dimethylamino-4-phenylcyclohexanone (435 mg) and glacial acetic acid (229 μl), the mixture was stirred for one hour at RT. Sodium triacetoxyborohydride (550 mg) was then added and the suspension was stirred for four days at RT. For working up, water (15 ml) was added to the reaction mixture. The clear phases were separated and the aqueous phase was washed with ether (10 ml) and then rendered strongly alkaline with sodium hydroxide solution. The aqueous phase was extracted with ethyl acetate (4×10 ml), the combined extracts were dried over sodium sulfate and filtered and the filtrate was concentrated. The crude product obtained (723 mg) was recrystallized twice from a mixture of ethyl acetate/cyclohexane (2 ml/6 ml). A fraction of the nonpolar diastereoisomer of N′-[2-(1H-indol-3-yl)-1-methyl-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine (128 mg, m.p. 155-162° C.) was obtained.

reactant | DL-α-Methyltryptamine | 2 mmol, 348 mg | CC(CC1=CNC2=CC=CC=C21)N | C11H14N2
reactant | 4-dimethylamino-4-phenylcyclohexanone | 435 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | acetic acid | 229 μl | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 550 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | water | 15 ml | O | H2O
product | N′-[2-(1H-indol-3-yl)-1-methyl-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine | 128 mg | N1C=C(C2=CC=CC=C12)CC(C)NC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | C25H33N3
